US08106043B2
3,4-Dihydro-2H-benzo[b][1,4]thiazine:
To a stirred solution of 2-(2-chloroethylthio)aniline (850 mg, 4.53 mmol) in DMF (10 mL) was added potassium carbonate (1878 mg, 13.59 mmol) followed by sodium iodide (67.9 mg, 0.453 mmol). The resulting mixture was heated to 90° C. and stirred overnight. The reaction mixture was then cooled to room temperature, diluted with ethyl acetate, and washed with water (3×) and brine. The organic phase was dried, filtered, concentrated, and then chromatographed in 9:1 hexanes:ethyl acetate, giving an orange oil (675 mg, 99%). 1H NMR (DMSO-d6) δ 6.85-6.75 (m, 2H), 6.51-6.39 (m, 2H), 6.00 (brs, 1H), 3.49-3.44 (m, 2H), 2.98-2.93 (m, 2H); ESI-MS (m/z, %): 152 (MH+, 100), 124 (44).

reactant | 2-(2-chloroethylthio)aniline | 4.53 mmol, 850 mg | ClCCSC1=C(N)C=CC=C1 | C8H10ClNS
reactant | potassium carbonate | 13.59 mmol, 1878 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.453 mmol, 67.9 mg | [I-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3,4-Dihydro-2H-benzo[b][1,4]thiazine | 675 mg, 99% | S1C2=C(NCC1)C=CC=C2 | C8H9NS
